US04054594
b. Preparation of (-)-cis-2-(2'-Hydroxyethyl)-cyclopent-3-enol
A solution of 2.2 g of the (-)-biscarbamate (Compound VI) in 25 ml of tetrahydrofuran was added at reflux to a suspension of 540 mg of lithium aluminum hydride in 75 ml of tetrahydrofuran and the mixture was stirred and refluxed for 2 hrs. It was then cooled and saturated aqueous potassium sodium tartrate was added dropwise until no further hydrogen was evolved. Excess anhydrous sodium sulfate was added, the suspension was filtered and the filter thoroughly rinsed with tetrahydrofuran. The solvent was evaporated in vacuo and the residue taken up in 20 ml of methanol. The resulting solution was passed through a column containing 10 g (2.5 equiv) of 50-100 mesh Dowex 50W-X8 previously washed with .1 N hydrochloric acid, distilled water and methanol and the column was rinsed with 20 ml of methanol. Evaporation of the solvent at 30° afforded 408 mg of a yellow oil which upon distillation afforded 408 mg of pure (-)-cyclopentenediol αD25° -60.5° (C, 1.03 in CHCl3), -68° (c, 1.23 in CH3OH).

reactant | lithium aluminum hydride | 540 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
reactant | hydrogen | [H][H] | H2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | (-)-cis-2-(2'-Hydroxyethyl)-cyclopent-3-enol | 408 mg | OCC[C@@H]1[C@@H](CC=C1)O | C7H12O2
